US06025375
1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (501 mg) was added to a stirred solution of 2-[(3-methoxyphenyl)methyl]cyclohexanecarboxylic acid (500 mg), benzoin (427 mg), and 4-dimethylaminopyridine (12.2 mg) in dichloromethane (10 ml) under ice cooling. The resulting mixture was stirred at the same temperature for 2 hours and at room temperature for 1 hour, and then a mixture of ethyl acetate and 1N hydrochloric acid was added thereto. The organic layer was separated, washed successively with 1N hydrochloric acid, sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed over silica gel using n-hexane--toluene as an eluent to afford 2-oxo-1,2-diphenylethyl 2-[(3-methoxyphenyl)-methyl]cyclohexanecarboxylate (455 mg) as a colorless oil.

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 501 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-[(3-methoxyphenyl)methyl]cyclohexanecarboxylic acid | 500 mg | COC=1C=C(C=CC1)CC1C(CCCC1)C(=O)O | C15H20O3
reactant | benzoin | 427 mg | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 12.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-oxo-1,2-diphenylethyl 2-[(3-methoxyphenyl)-methyl]cyclohexanecarboxylate | 455 mg | COC=1C=C(C=CC1)CC1C(CCCC1)C(=O)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C29H30O4
